US08097613B2
g) Cyclopropanesulfonic acid {3-[(1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-7-ylmethyl}-amide
To a solution of (1R,2S,7R,8S)-5-(7-aminomethyl-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one (0.10 g, 0.20 mmol) in dichloromethane (3 mL) at 0° C. was added triethylamine (56 μL, 0.40 mmol) and cyclopropanesulfonyl chloride (23 μL, 0.22 mmol). The reaction was stirred at 0° C. for 30 min, then at 25° C. for 2 h. The reaction was quenched with water (10 mL). The resulting mixture was extracted with ethyl acetate (3×10 mL). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified via flash column chromatography (Teledyne Isco RediSep column; 0-1% methanol in dichloromethane) to afford the desired product, cyclopropanesulfonic acid {3-[(1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-7-ylmethyl}-amide (0.10 g, 0.17 mmol, 84%), as a white solid.

reactant | (1R,2S,7R,8S)-5-(7-aminomethyl-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-3-yl)-3-(4-fluoro-benzyl)-6-hydroxy-3-aza-tricyclo[6.2.1.02,7]undec-5-en-4-one | 0.20 mmol, 0.10 g | NCC1=CSC=2NC(=NS(C21)(=O)=O)C=2C(N([C@H]1[C@@H]3CC[C@H]([C@H]1C2O)C3)CC3=CC=C(C=C3)F)=O | C23H23FN4O4S2
reactant | triethylamine | 0.40 mmol, 56 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanesulfonyl chloride | 0.22 mmol, 23 μL | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | cyclopropanesulfonic acid {3-[(1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-thieno[2,3-e][1,2,4]thiadiazin-7-ylmethyl}-amide | 0.17 mmol, 0.10 g, 84% | FC1=CC=C(CN2[C@H]3[C@@H]4CC[C@H]([C@H]3C(=C(C2=O)C2=NS(C3=C(N2)SC=C3CNS(=O)(=O)C3CC3)(=O)=O)O)C4)C=C1 | C26H27FN4O6S3
